US09108915B2
3-{N-Benzyloxycarbonyl-N-(ethoxycarbonylmethyl)amino}propionic acid
To tert-butyl 3-{N-benzyloxycarbonyl-N-(ethoxycarbonylmethyl)amino}propionate (500 mg, 1.37 mmol) was added formic acid (2.5 mL, 66.3 mmol), followed by stirring at an outer temperature set of 40° C. for 3 hours. After leaving to be cooled, to the reaction mixture were added ethyl acetate (10 mL) and water (10 mL), and the organic layer was collected by separation. To the aqueous layer was added ethyl acetate (10 mL), the organic layer was collected by separation, and then the organic layer was combined, washed with saturated brine (10 mL), then dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained concentrated residue was dried at room temperature under reduced pressure to obtain 421 mg (yield 99%) of a title compound as colorless oil.

reactant | tert-butyl 3-{N-benzyloxycarbonyl-N-(ethoxycarbonylmethyl)amino}propionate | 1.37 mmol, 500 mg | C(C1=CC=CC=C1)OC(=O)N(CC(=O)OCC)CCC(=O)OC(C)(C)C | C19H27NO6
reactant | formic acid | 66.3 mmol, 2.5 mL | C(=O)O | CH2O2
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 10 mL | O | H2O
product | 3-{N-Benzyloxycarbonyl-N-(ethoxycarbonylmethyl)amino}propionic acid | 421 mg, yield 99% | C(C1=CC=CC=C1)OC(=O)N(CC(=O)OCC)CCC(=O)O | C15H19NO6
